US06762268B2
1 mol of 5-norbornene-2-carboxylic acid was dissolved in 1.5 l of THF, and 1.1 mol of triethylamine and 1.1 mol of chloromethylethylether were added thereto. The reaction was carried out at room temperature for 6 hours. After completion of the reaction, the resultant mixture was distilled under reduced pressure to provide 5-norbornene-2-ethoxymethylcarboxylate (ANCA) in 89% yield.

reactant | 5-norbornene-2-carboxylic acid | 1 mol | C12C(CC(C=C1)C2)C(=O)O | C8H10O2
reactant | triethylamine | 1.1 mol | C(C)N(CC)CC | C6H15N
reactant | chloromethylethylether | 1.1 mol | ClCOCC | C3H7ClO
solvent | THF | 1.5 l | C1CCOC1 | C4H8O
product | 5-norbornene 2-ethoxymethylcarboxylate | 89% yield | C12CCC(C=C1)C2.CCOCC(=O)[O-] | InChI=1S/C7H10.C4H8O3/c1-2-7-4-3-6(1)5-7;1-2-7-3-4(5)6/h1-2,6-7H,3-5H2;2-3H2,1H3,(H,5,6)/p-1
